US08557858B2
(E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide monohydrochloride
To 225 mg (E)-N-(2-amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide (0.50 mmol) in 20 ml of warm methanol a solution (3.13 mL, 0.5 mmol) of HCl in methanol (to 4 mL 4N HClaqueous methanol was added to a final of 100 mL=0.16 mmol/mL) was added dropwise. Immediately, a yellowish oil separated. By adding diethyl ether (10 mL) the full separation was done. The resulting solid was dried overnight. Yield: 248 mg (102%); yellowish solid; MP: 150-164° C., sinter. The compound contained 0.91 HCl/Mol.

reactant | (E)-N-(2-amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide | 0.50 mmol, 225 mg | NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | C23H21N5O3S
reactant | HCl | 0.5 mmol, 3.13 mL | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 4N, 4 mL | CO | CH4O
product | (E)-N-(2-Amino-phenyl)-3-{1-[4-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-acrylamide monohydrochloride | Cl.NC1=C(C=CC=C1)NC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC=C(C=C1)C=1C=NN(C1)C)=O | InChI=1S/C23H21N5O3S.ClH/c1-27-16-19(14-25-27)18-7-9-20(10-8-18)32(30,31)28-13-12-17(15-28)6-11-23(29)26-22-5-3-2-4-21(22)24;/h2-16H,24H2,1H3,(H,26,29);1H/b11-6+;
